US04331670
Preparation of N-acetyl-N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2,6-dinitro-3-chloro-4-trifluoromethylaniline
In 20 ml. of pyridine, 2.3 g. of N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2,6-dinitro-3-chloro-4-trifluoromethylaniline (obtained in Preparation 4) was dissolved and a solution of 0.34 g. of acetylchloride in 10 ml. of pyridine was added dropwise to react them at 60° to 70° C. for 2 hours. Pyridine was distilled off from the reaction mixture and the product was separated by a silica gel column with an eluent of n-hexane and ethyl acetate (4:1) and the solvent was distilled off to obtain 0.8 g. of the object compound having the melting point of 75° to 77° C.

reactant | N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2,6-dinitro-3-chloro-4-trifluoromethylaniline | ClC=1C(=NC=C(C1)C(F)(F)F)NC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-] | C13H4Cl2F6N4O4
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-acetyl-N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2,6-dinitro-3-chloro-4-trifluoromethylaniline | C(C)(=O)N(C1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-])C1=NC=C(C=C1Cl)C(F)(F)F | C15H6Cl2F6N4O5
